US09227901B2
N-((1R,2S)-1-benzyl-7-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)propionamide
Chlorocyclooctadiene rhodium(I) dimer (0.802 g, 1.63 mmol, 3.25 mmol of Rh), Josiphos SL-J216-2 (2.199 g, 3.42 mmol), and N-(1-benzyl-7-methoxy-3,4-dihydronaphthalen-2-yl)propionamide (440 g, 1.37 mol) were combined in a metal reactor, and the vessel was inerted with argon. Degassed methanol (4.40 I) was added, then the mixture was stirred under argon at 50° C. for 20 min. The vessel was pressurized with 60 psig of hydrogen and stirred at 55° C. for 40 hrs. HPLC analysis indicated complete conversion and 95.9% ee. The methanol solution of crude reduction product was concentrated and triturated with heptane to yield 428.2 g (yield: 91%) of the title compound.

reactant | Josiphos SL-J216-2 | 3.42 mmol, 2.199 g | C[C@H]([C]1[CH][CH][CH][C]1P(C2=CC=CC3=CC=CC=C32)C4=CC=CC5=CC=CC=C54)PC | C28H25P2
reactant | N-(1-benzyl-7-methoxy-3,4-dihydronaphthalen-2-yl)propionamide | 1.37 mol, 440 g | C(C1=CC=CC=C1)C1=C(CCC2=CC=C(C=C12)OC)NC(CC)=O | C21H23NO2
reactant | hydrogen | [H][H] | H2
catalyst | Chlorocyclooctadiene rhodium(I) | [Rh+].ClC1=CC=CCCCC1
solvent | methanol | CO | CH4O
product | N-((1R,2S)-1-benzyl-7-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)propionamide | 428.2 g, yield: 91% | C(C1=CC=CC=C1)[C@H]1[C@H](CCC2=CC=C(C=C12)OC)NC(CC)=O | C21H25NO2
